US07238808B2
5-(4-Chloro-phenyl)-3-pyridin-3-ylethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
The title compound was prepared from 5-(4-chloro-phenyl)-3-iodo-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine (example C.4) (420 mg, 1.0 mmol) and commercially available 3-Ethynylpyridine (102 mg, 0.9 mmol) according to general procedure II. Obtained as an orange solid (230 mg, 58%). MS (ISP) 398.9 [(M+H)+]; mp 214–215° C.

reactant | 5-(4-chloro-phenyl)-3-iodo-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 420 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2I | C13H6ClF3IN3
reactant | 3-Ethynylpyridine | 0.9 mmol, 102 mg | C(#C)C=1C=NC=CC1 | C7H5N
product | 5-(4-Chloro-phenyl)-3-pyridin-3-ylethynyl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#CC=2C=NC=CC2 | C20H10ClF3N4
